US04801717
3-fluoro-phenol and ethyl iodide were reacted to form 3-fluoro-ethoxy benzene with a refractive index of nD25 =1.4823 which was reacted with nitric acid to obtain 2-ethoxy-4-fluoronitro benzene with a melting point of 28°~30° C. which was reacted to obtain 0-(4-nitro-3-ethoxy-phenyl)-hydroxylamine melting at 97°~98° C.

reactant | 3-fluoro-phenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | ethyl iodide | C(C)I | C2H5I
product | 3-fluoro-ethoxy benzene | FC=1C=C(C=CC1)OCC | C8H9FO
